US07544679B2
Air was bubbled for 1 hour at room temperature through a suspension of 0.5 g (3 mmol) dimethyl-(2-methylpropyl)malonate and 1.73 g (5 mmol) cesium carbonate in 7 ml dimethylformamide. Stirring was continued at room temperature for 24 hours. 25 ml water was added and the mixture was extracted with diethylether. Acidification with aqueous 1 N hydrochloric acid to pH=1 and extraction with ethylacetate yielded 0.42 g (83%) (R/S)-2-hydroxy-2-isobutyl-malonic acid monomethyl ester, MS (m/e): 189.4 (M−H)−.

reactant | dimethyl-(2-methylpropyl)malonate | 3 mmol, 0.5 g | COC(C(C(=O)OC)CC(C)C)=O | C9H16O4
reactant | cesium carbonate | 5 mmol, 1.73 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 25 ml | O | H2O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (R/S)-2-hydroxy-2-isobutyl-malonic acid monomethyl ester | 0.42 g, 83% | COC(C(C(=O)O)(CC(C)C)O)=O | C8H14O5
